US05032301
Preparation of 1,2,3,3,3-pentafluoro-1-(3-phenoxy-3-phenoxyphenoxy)propene
Five g (0.018 mole) of 3-phenoxy-3-phenoxyphenol, 100 ml of xylene and 1.2 g of KOH are placed into a flask equipped with a Dean-Stark trap. This mixture is stirred at reflux until water of reaction ceases to evolve. The mixture is cooled and 100 ml of tetrahydrofuran (THF) are added and the mixture is further cooled in a dry ice/acetone bath while 15 g of perfluoropropene are bubbled into the reaction mixture. The mixture is stirred for three hours while warming to room temperature. Next, 100 ml of water are added and the mixture is stirred. The product phase is separated, dried over sodium sulfate, filtered and distilled. The product propene is an oil obtained in a yield of 75 percent. The oil has a pour point below -27° C., a boiling point of 150° C. at 1.0 mm Hg and a DSC of 373° C.

reactant | 3-phenoxy-3-phenoxyphenol | 0.018 mole | O(C1=CC=CC=C1)C1(CC(=CC=C1)O)OC1=CC=CC=C1 | C18H16O3
reactant | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | KOH | 1.2 g | [OH-].[K+]
reactant | perfluoropropene | 15 g | FC(=C(C(F)(F)F)F)F | C3F6
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1,2,3,3,3-pentafluoro-1-(3-phenoxy-3-phenoxyphenoxy)propene | yield of 75 percent | FC(=C(C(F)(F)F)F)OC=1CC(C=CC1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C21H15F5O3
